US07498346B2
(R)-[1-(3-Amino-1-methyl-propyl)-piperidin-4-yl]-(4-methoxy-phenyl)-pyridin-3-ylmethyl-amine (0.78 g, 2.12 mmol) was dissolved in DCM (10 mL). 6-Chloro-2,4-dimethyl-nicotinic acid (474 mg, 1.2 eq.), HOBT (430 mg, 1.5 eq.), DIPEA (760 μL, 2 eq.), and EDCI (612 mg, 1.5 eq.) were added sequentially. The mixture was stirred at room temperature for 6 h, and then quenched with saturated NaHCO3 (20 mL). The pH of the equilibrated aqueous was adjusted to 8 with 1N HCl, and the mixture was extracted with DCM (200 mL in 5 extracts). The combined organic was dried (Na2SO4) and concentrated. The residue was purified with flash chromatography on 150 mL silica using a gradient of 5%→10% MeOH in EtOAc containing 1% NH4OH as the eluent to give 6-chloro-N-((R)-3-{4-[(4-methoxy-phenyl)-pyridin-3-ylmethyl-amino]-piperidin-1-yl}-butyl)-2,4-dimethyl-nicotinamide (0.88 g, 77%) as light brown foam. 1H NMR (δ, CDCl3): 8.66 (1 H, d, br, J=5.7 Hz), 8.51 (1 H, s), 8.44 (1 H, d, J=4.8 Hz), 7.61 (1 H, d, J=8.1 Hz), 7.20 (1 H, dd, J=7.8, 4.8 Hz), 7.01 (1 H, s), 6.73 (2 H, d, J=9.0 Hz), 6.62 (2 H, d, J=9.0 Hz), 3.88 (2 H, s, an overlapping 1H, m), 3.71 (3 H, s), 3.33 (2 H, pentet, J=13.5 Hz), 2.80 (3 H, m), 2.51 (3 H, s, an overlapping 1 H, m), 2.30 (3 H, s), 2.12 (1 H, t, J=11.4 Hz), 1.82-1.66 (3 H, m), 1.60-1.46 (1 H, m), 1.11 (1 H, qd, J=12.3, 3.6 Hz), 0.99 (3 H, d, J=6.6 Hz), 0.92 (1 H, qd, J=12.0, 3.0 Hz); 13C NMR (δ, CDCl3): 167.2, 155.4, 152.9, 150.2, 148.9, 148.1, 147.5, 142.5, 135.7, 134.8, 123.3, 122.5, 117.8, 114.6, 60.5, 58.1, 55.6, 52.1, 47.5, 43.6, 40.1, 30.7, 29.4, 22.1, 18.8, 13.4; ES-MS m/z 536.5 (M+1). Anal. Calcd. for (C30H38N5ClO2) 0.2(H2O): C, 66.76; H, 7.17; N, 12.98; Cl, 6.57. Found: C, 66.80; H, 7.00; N, 12.86; Cl, 6.55.

reactant | (R)-[1-(3-Amino-1-methyl-propyl)-piperidin-4-yl]-(4-methoxy-phenyl)-pyridin-3-ylmethyl-amine | 2.12 mmol, 0.78 g | NCC[C@@H](C)N1CCC(CC1)N(CC=1C=NC=CC1)C1=CC=C(C=C1)OC | C22H32N4O
reactant | 6-Chloro-2,4-dimethyl-nicotinic acid | 474 mg, 1.2 eq. | ClC1=NC(=C(C(=O)O)C(=C1)C)C | C8H8ClNO2
reactant | HOBT | 430 mg, 1.5 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 760 μL, 2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 612 mg, 1.5 eq. | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-chloro-N-((R)-3-{4-[(4-methoxy-phenyl)-pyridin-3-ylmethyl-amino]-piperidin-1-yl}-butyl)-2,4-dimethyl-nicotinamide | 0.88 g, 77% | ClC1=NC(=C(C(=O)NCC[C@@H](C)N2CCC(CC2)N(CC=2C=NC=CC2)C2=CC=C(C=C2)OC)C(=C1)C)C | C30H38ClN5O2
